US04239903
Using 2.0 g of N-ethyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride, 3.3 g of 4-iodobutyl 3,4,5-trimethoxybenzoate, 0.9 g of anhydrous sodium carbonate and 40 ml of methyl ethyl ketone, the free base, N-ethyl-N-[4-(3,4,5-trimethoxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine, was obtained using the procedures described in Example 2 (ii). The free base was treated with methanesulfonic acid to obtain 1.5 g of N-ethyl-N-[4-(3,4,5-trimethoxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine methanesulfonate as a pale-yellow oil.

reactant | N-ethyl-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride | 2.0 g | Cl.C(C)NC1CC2=CC=C(C=C2CC1)OC
reactant | 4-iodobutyl 3,4,5-trimethoxybenzoate | 3.3 g | COC=1C=C(C(=O)OCCCCI)C=C(C1OC)OC | C14H19IO5
reactant | sodium carbonate | 0.9 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methyl ethyl ketone | 40 ml | C(C)C(=O)C | C4H8O
product | N-ethyl-N-[4-(3,4,5-trimethoxybenzoyloxy)butyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine | C(C)N(CCCCOC(C1=CC(=C(C(=C1)OC)OC)OC)=O)C1CC2=CC=C(C=C2CC1)OC | C27H37NO6
